US08871753B2
Step A: tert-Butyl 4-{[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]methyl}piperazine-1-carboxylate
To a solution of [6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]methanol trifluoroacetate (0.731 g, 1.56 mmol) in THF (15 mL) was added methanesulfonyl chloride (151 μL, 1.95 mmol) and N,N-diisopropylethylamine (0.93 mL, 5.32 mmol) at 0° C. The resulting reaction solution was stirred at same temperature for 2 hours. The reaction solution was diluted with DMF (8 mL) and N-tert-butoxycarbonylpiperazine (396 mg, 2.13 mmol) was added, followed by N,N-diisopropylethylamine (0.818 mL, 4.70 mmol). The reaction solution was stirred at 40° C. overnight. The reaction solution was diluted with 1 N HCl solution and ethyl acetate and the aqueous layer was extracted with ethyl acetate once. The aqueous layer was neutralized with 50% NaOH solution to pH 10, and then extracted with EtOAc twice. The combined organic solutions were dried over sodium sulfate, filtered and concentrated. The residue was purified by flash column chromatography to yield the desired product (410 mg, 50%). LCMS calculated for C28H34ClN6O2(M+H)+: m/z=521.2.

reactant | [6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]methanol trifluoroacetate | 1.56 mmol, 0.731 g | FC(C(=O)O)(F)F.ClC=1C=NC=2NC=3C=CC=C(CCC4=CC(=CC(NC1N2)=C4)CO)C3
reactant | methanesulfonyl chloride | 1.95 mmol, 151 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 5.32 mmol, 0.93 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-tert-butoxycarbonylpiperazine | 2.13 mmol, 396 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N,N-diisopropylethylamine | 4.70 mmol, 0.818 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-{[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-11-yl]methyl}piperazine-1-carboxylate | 410 mg, 50% | ClC=1C=NC=2NC=3C=CC=C(CCC4=CC(=CC(NC1N2)=C4)CN4CCN(CC4)C(=O)OC(C)(C)C)C3 | C28H33ClN6O2
